US06498159B1
567 ml solution of 37.8 g tert-butyl 2-oxo-7-azaspiro[3.5]nonane-7-carboxylate in methanol was cooled on ice water, and 43 g of 30% aqueous hydrogen peroxide was added dropwise thereinto. 63 ml of 1 N aqueous sodium hydroxide was added dropwise thereto, and the mixture was stirred at room temperature for 2 hr. 1000 ml ethyl acetate, 600 ml water and 100 ml saturated aqueous sodium thiosulfate pentahydrate were added thereto, and the organic layer was recovered. The extracted solution was washed with brine, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was evaporated to give 28.4 g of tert-butyl 3-oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate.

reactant | tert-butyl 2-oxo-7-azaspiro[3.5]nonane-7-carboxylate | 37.8 g | O=C1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C13H21NO3
reactant | hydrogen peroxide | 43 g | OO | H2O2
reactant | sodium hydroxide | 1 N, 63 ml | [OH-].[Na+]
reactant | sodium thiosulfate pentahydrate | 100 ml | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
solvent | water | 600 ml | O | H2O
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate | 28.4 g | O=C1OCC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C13H21NO4
